US04082851
By replacing in Example 289 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide with an equimolar amount of 3-n-butylamino-4-phenoxy-5-sulfamyl-N-methylbenzamide and following the procedure described, (3-n-butylamino-4-phenoxy-5-sulfamylbenzyl)methylamine is obtained with a melting point of 157°-159° C. The material (IR, analysis) is identical with the material prepared as in Example 115.

reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | 3-n-butylamino-4-phenoxy-5-sulfamyl-N-methylbenzamide | C(CCC)NC=1C=C(C(=O)NC)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C18H23N3O4S
product | (3-n-butylamino-4-phenoxy-5-sulfamylbenzyl)methylamine | C(CCC)NC=1C=C(CCN)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C18H25N3O3S
